US06376555B1
In a manner similar to Example 9, Step 1, 3-isopropoxy-4-(tri-n-butylstannyl)-3-cyclobutene-1,2-dione (3.00 g, 6.99 mmol), 4-trifluoromethyl-iodobenzene (2.09 g, 7.69 mmol), benzylchlorobis(triphenylphos-phine)palladium (II) (0.318 g, 0.419 mmol) and cuprous iodide (0.12 g, 0.629 mmol) were reacted together to give 0.98 g (45%) of 3-isopropoxy-4-(4-trifluoromethyl-phenyl)-cyclobut-3-ene-1,2-dione which was of sufficient purity to use in the next step.

reactant | 3-isopropoxy-4-(tri-n-butylstannyl)-3-cyclobutene-1,2-dione | 6.99 mmol, 3.00 g | C(C)(C)OC=1C(C(C1[Sn](CCCC)(CCCC)CCCC)=O)=O
reactant | 4-trifluoromethyl-iodobenzene | 7.69 mmol, 2.09 g | FC(C1=CC=C(C=C1)I)(F)F | C7H4F3I
product | 3-isopropoxy-4-(4-trifluoromethyl-phenyl)-cyclobut-3-ene-1,2-dione | 0.98 g, 45% | C(C)(C)OC=1C(C(C1C1=CC=C(C=C1)C(F)(F)F)=O)=O | C14H11F3O3
